US06670386B2
34A. cis-3-Hydroxy-piperidine-2-carboxylic acid
A suspension of 3-hydroxypicolinic acid (1 g, 7.19 mmol) and 5 wt. % rhodium on carbon (200 mg) in a mixed solvents of conc. NH4OH (35 mL) and water (5 mL) in a pressure bottle was stirred under hydrogen at 80 psi overnight. The reaction mixture was filtered and the filtrate concentrated in vacuo to dryness to give 118 mg of the title compound (racemate). MS (ES): m/z 146 [M+1]+.

reactant | 3-hydroxypicolinic acid | 7.19 mmol, 1 g | OC=1C(=NC=CC1)C(=O)O | C6H5NO3
reactant | NH4OH | 35 mL | [NH4+].[OH-]
catalyst | rhodium on carbon | 200 mg | [Rh] | Rh
solvent | water | 5 mL | O | H2O
product | cis-3-Hydroxy-piperidine-2-carboxylic acid | 118 mg | O[C@@H]1[C@@H](NCCC1)C(=O)O | C6H11NO3
